US08242145B2
Step 2: {4-Benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid benzyl ester
To {4-hydroxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid (0.07 g, 0.14 mmol) and cesium carbonate (0.09 g, 0.28 mmol) in DMF was added benzyl bromide (0.03 mL, 0.28 mmol), and the reaction was stirred at room temperature for 3 days. The mixture was partitioned between H2O and EtOAc, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated to give the desired product.

reactant | {4-hydroxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid | 0.14 mmol, 0.07 g | OC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O | C26H22F3NO6
reactant | cesium carbonate | 0.28 mmol, 0.09 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | benzyl bromide | 0.28 mmol, 0.03 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | CN(C)C=O | C3H7NO
product | {4-Benzyloxy-3-[2-((4S,5R)-4-methyl-2-oxo-5-phenyl-oxazolidin-3-ylmethyl)-4-trifluoromethyl-phenoxy]-phenyl}-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H]([C@@H]1C)C1=CC=CC=C1)=O)=O | C40H34F3NO6
